US05026859
PREPARATION OF DIMETHYL 6-CHLORO-5-(1,3-DIOXOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE
Ethylene glycol (14.3 mL, 0.255 mol), and a catalytic amount of p-toluenesulfonic acid monohydrate is added to a solution of 6-chloro-5-formyl-2,3-pyridinedicarboxylic acid, dimethyl ester, 5-(dimethyl acetal) (15.46 g, 0.051 mol) and toluene. The reaction mixture is heated at reflux temperature for 3 hours then cooled to room temperature. Ether is added and the mixture is washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound as an orange oil (14.27 g, 93%), identified by IR and NMR spectral analyses.

reactant | Ethylene glycol | 0.255 mol, 14.3 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 6-chloro-5-formyl-2,3-pyridinedicarboxylic acid, dimethyl ester | ClC1=C(C=C(C(=N1)C(=O)OC)C(=O)OC)C=O | C10H8ClNO5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Ether | CCOCC | C4H10O
product | DIMETHYL 6-CHLORO-5-(1,3-DIOXOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE | 14.27 g, 93% | ClC1=C(C=C(C(=N1)C(=O)OC)C(=O)OC)C1OCCO1 | C12H12ClNO6
